US04429156
55.5 parts of 4-bromo-3-chloro-5-iodoaniline, 250 parts of phenol, 8 parts of hydroiodic acid (57% strength) and 15 parts of ruthenium-on-charcoal catalyst (5% strength) are reacted with hydrogen under a pressure of 23 to 47 bars and at 145° C., during the course of 2 hours, whilst stirring. After the usual working up, 38 parts of 3-chloro-5-iodo-aniline are obtained. Yield: 90% of theory.

reactant | 4-bromo-3-chloro-5-iodoaniline | BrC1=C(C=C(N)C=C1I)Cl | C6H4BrClIN
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydroiodic acid | I | HI
reactant | hydrogen | [H][H] | H2
product | 3-chloro-5-iodo-aniline | Yield: 90% | ClC=1C=C(N)C=C(C1)I | C6H5ClIN
